US07129232B2
To a suspension of 4,5-diamino-1-(2-hydroxyethyl)pyrazole sulfuric acid salt (50.0 g) in chloroform (500 ml) were added 4-(dimethylamino)pyridine (2.54 g), triethylamine (116 ml) and 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethanesulfonyl)guanidine (106 g). The mixture was stirred under reflux for 2 hours. After cooling on an ice bath, the reaction mixture was washed successively with water, 4% aqueous citric acid solution, water and aqueous sodium hydrogen carbonate solution. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with a mixed solvent of ethyl acetate (50 ml) and diethyl ether (200 ml) to give 5-amino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-1-(2-hydroxyethyl)pyrazole (50 g) as a solid.

reactant | 4,5-diamino-1-(2-hydroxyethyl)pyrazole sulfuric acid salt | 50.0 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)CCO
reactant | triethylamine | 116 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(tert-butoxycarbonyl)-2-(trifluoromethanesulfonyl)guanidine | 106 g | C(C)(C)(C)OC(=O)NC(=NS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C | C12H20F3N3O6S
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-(dimethylamino)pyridine | 2.54 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-amino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-1-(2-hydroxyethyl)pyrazole | 50 g | NC1=C(C=NN1CCO)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H28N6O5
